US06043360
Step 1: Preparation of α-Chloro-Deoxyanisoin
Anisoin (2.87 g), 100 mL of methylene chloride, and pyridine (2.02 g) are placed in a flask under nitrogen. Thionyl chloride (1.60 ml) is added dropwise over 5 minutes using a water bath to maintain the reaction temperature between 25° C. and 30° C. After allowing the mixture stir for 50 minutes the reaction is quenched by washing with water (2×100 mL) and 100 mL of brine. The organics are dried over sodium sulfate, filtered, then concentrated. The resulting oil is taken up in 25 mL of diethyl ether and filtered. The filter cake is rinsed with 25 ml of diethyl ether. To the filtrate is added 25 ml of ethanol and the solution is concentrated. Crystals are allowed to form over 24 hours. The precipitate which forms is filtered, washed with 25 mL of ethanol, and dried in vacuo at 45° C. to give 4.00 g of product. (69%). Analysis calculated for C16H14ClO3 : C, 66.10; H, 5.20; Cl, 12.19. Found: C, 66.29; H, 5.32; Cl, 12.56. MS(FD) 290.

reactant | Anisoin | 2.87 g | C1(=CC=C(OC)C=C1)C(=O)C(O)C1=CC=C(OC)C=C1 | C16H16O4
reactant | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
reactant | Thionyl chloride | 1.60 ml | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 2.02 g | N1=CC=CC=C1 | C5H5N
product | α-Chloro-Deoxyanisoin | 4.00 g | ClC(C(C1=CC=C(OC)C=C1)=O)C1=CC=C(OC)C=C1 | C16H15ClO3
